US06583135B2
Preparation of tert-Butyl 8,10-Dichloro-6-(2-ethoxy-2-oxoethyl)-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate
Sodium hydride (60% dispersion in mineral oil, 0.25 g, 6.3 mmol) was added to a solution of tert-butyl 8,10-dichloro-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate (1.5 g, 4.2 mmol) in DMF (15 mL). After 20 min, ethyl bromoacetate (0.94 mL, 8.4 mmol) was added. The reaction was quenched with saturated aqueous NH4Cl after 1.5 h and extracted with EtOAc (3×20 mL). The combined organic extracts were washed with brine, dried over Na2SO4, decanted, and concentrated. The crude product was purified by column chromatography (Biotage, 40M) with heptane/EtOAc (3:1) followed by crystallization from MeOH/EtOAc to give 1.4 g (78%) of a white solid: mp 144.5-147.0° C.; IR (diffuse reflectance) 2982, 2972, 1748, 1690, 1456, 1411, 1373, 1366, 1352, 1252, 1222, 1202, 1159, 1115, 824 cm; MS (EI) m/z 440 (M+), 442, 440, 386, 384, 310, 300, 298, 86, 84, 57; Anal. Calcd for C21H26Cl2N2O4: C, 57.15; H, 5.94; N, 6.35; found: C, 57.15; H, 6.04; N, 6.37.

reactant | Sodium hydride | 6.3 mmol, 0.25 g | [H-].[Na+]
reactant | tert-butyl 8,10-dichloro-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate | 4.2 mmol, 1.5 g | ClC=1C=C(C=2C3=C(NC2C1)CCN(CC3)C(=O)OC(C)(C)C)Cl | C17H20Cl2N2O2
reactant | ethyl bromoacetate | 8.4 mmol, 0.94 mL | BrCC(=O)OCC | C4H7BrO2
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | tert-Butyl 8,10-Dichloro-6-(2-ethoxy-2-oxoethyl)-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate | 1.4 g, 78% | ClC=1C=C(C=2C3=C(N(C2C1)CC(=O)OCC)CCN(CC3)C(=O)OC(C)(C)C)Cl | C21H26Cl2N2O4
